US08242175B2
A mixture of (E)-3-(5-formyl-pyridin-2-yl)-acrylic acid tert-butyl ester (261 mg, 1.12 mmol), 1-[4-(4-methyl-piperazin-1-yl)-phenyl]-ethanone (246 mg, 1.2 mmol) and KOH (125 mg, 2.24 mmol) in 10 ml of EtOH was stirred at room temperature for 24 hours, observing the formation of a precipitate. The solid was then filtered off through a Buchner funnel to obtain 222 mg of (E)-3-(5-{(E)-3-[4-(4-methyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-pyridin-2-yl)-acrylic acid tert-butyl ester.

reactant | (E)-3-(5-formyl-pyridin-2-yl)-acrylic acid tert-butyl ester | 1.12 mmol, 261 mg | C(C)(C)(C)OC(\C=C\C1=NC=C(C=C1)C=O)=O | C13H15NO3
reactant | 1-[4-(4-methyl-piperazin-1-yl)-phenyl]-ethanone | 1.2 mmol, 246 mg | CN1CCN(CC1)C1=CC=C(C=C1)C(C)=O | C13H18N2O
reactant | KOH | 2.24 mmol, 125 mg | [OH-].[K+]
solvent | EtOH | 10 ml | CCO | C2H6O
product | (E)-3-(5-{(E)-3-[4-(4-methyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-pyridin-2-yl)-acrylic acid tert-butyl ester | 222 mg | C(C)(C)(C)OC(\C=C\C1=NC=C(C=C1)\C=C\C(=O)C1=CC=C(C=C1)N1CCN(CC1)C)=O | C26H31N3O3
